US08039493B2
In analogy to example 1, step 2, 3-chloro-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-benzenesulfonamide was reacted with sodium hydride in N,N-dimethylacetamide at 0° C. followed by reaction with benzyl bromide at r.t. overnight to give N-benzyl-3-chloro-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-benzenesulfonamide as an off-white solid. MS: 549.3 ([M+NH4]+)

reactant | 3-chloro-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-benzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)NCC=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C18H16ClNO4S3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-benzyl-3-chloro-N-[5-(3-methanesulfonyl-phenyl)-thiophen-2-ylmethyl]-benzenesulfonamide | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC(=CC=C1)Cl)CC=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C25H22ClNO4S3
